US07538239B2
2-(2-(p-toluenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one
0.815 g (4.35 mmol) of 2-(2-aminophenyl)-3-methyl-2-cyclopenten-1-one, pyridine 0.413 g (5.22 mmol), 0.829 g (5.22 mmol) of p-toluenesulfonyl chloride, and 4 mL of M.C were loaded to a 20 mL vial, and then reacted for 12 hours. The work-up was the same as in Example 7 (1.330 g, 89%).

reactant | 2-(2-aminophenyl)-3-methyl-2-cyclopenten-1-one | 4.35 mmol, 0.815 g | NC1=C(C=CC=C1)C=1C(CCC1C)=O | C12H13NO
reactant | pyridine | 5.22 mmol, 0.413 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 5.22 mmol, 0.829 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-(2-(p-toluenesulfonyl)aminophenyl)-3-methyl-2-cyclopenten-1-one | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)C=1C(CCC1C)=O)C | C19H19NO3S
